US07084155B2
Reaction of N-tert-Butoxycarbonyl-N-(2-pyridinylmethyl)-N′-(8-methyl-5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (120 mg, 0.26 mmol), 2-chloromethyl-1-(2-trimethylsilylethoxymethyl)-1H-benzimidazole (234 mg, 0.79 mmol) and diisopropylethylamine (229 uL, 1.31 mmol) in DMF (2.6 mL) for 18 h at 90° C. followed by purification of the crude material by radial chromatography (2 mm plate, 20:2:1 CHCl3-MeOH—NH4OH) afforded 90 mg (48%) of N-tert-butoxycarbonyl-N-(2-pyridinylmethyl)-N′-(1-(2-trimethylsilylethoxymethyl)-1H-benzimidazol-2-ylmethyl)-N′-(8-methyl-5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine as a colourless oil.

reactant | N-tert-Butoxycarbonyl-N-(2-pyridinylmethyl)-N′-(8-methyl-5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.26 mmol, 120 mg | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)CNC1(CCCC=2C=CC=NC12)C)CC1=NC=CC=C1 | C29H36N4O2
reactant | 2-chloromethyl-1-(2-trimethylsilylethoxymethyl)-1H-benzimidazole | 0.79 mmol, 234 mg | ClCC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C14H21ClN2OSi
reactant | diisopropylethylamine | 1.31 mmol, 229 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2.6 mL | CN(C)C=O | C3H7NO
product | N-tert-butoxycarbonyl-N-(2-pyridinylmethyl)-N′-(1-(2-trimethylsilylethoxymethyl)-1H-benzimidazol-2-ylmethyl)-N′-(8-methyl-5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 90 mg, 48% | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)CN(C1(CCCC=2C=CC=NC12)C)CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)CC2=NC=CC=C2 | C43H56N6O3Si
